US04242519
Methyl α-methylthio[p-[dimethoxy(2-thienyl)methyl]phenyl]acetate (457 mg) was dissolved in 3 ml of anhydrous dimethyl sulfoxide, and 60 mg (65% content) of sodium hydride was added. The mixture was stirred at room temperature for 30 minutes. Then, 0.15 ml of methyl iodide was added, and the mixture was stirred at room temperature for 20 minutes. After adding an aqueous solution of ammonium chloride (0.5 g/30 ml), the mixture was extracted three times with 20 ml of methylene chloride. The extract was washed twice with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a Florisil column using benzene as an eluent to give 443 mg of methyl α-methylthio-α-[p-[dimethoxy(2-thienyl)methyl]phenyl]propionate as a colorless oil in a yield of 93%.

reactant | Methyl α-methylthio[p-[dimethoxy(2-thienyl)methyl]phenyl]acetate | 457 mg | CSC(C(=O)OC)C1=CC=C(C=C1)C(C=1SC=CC1)(OC)OC | C17H20O4S2
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | methyl iodide | 0.15 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 0.5 g | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | methyl α-methylthio-α-[p-[dimethoxy(2-thienyl)methyl]phenyl]propionate | 443 mg, yield of 93% | CSC(C(=O)OC)(C)C1=CC=C(C=C1)C(C=1SC=CC1)(OC)OC | C18H22O4S2
